### PR TITLE
[Merged by Bors] - chore: Replace `open scoped Classical` with `open scoped Classical in` or `classical` 

### PR DESCRIPTION
**Pull request by sgouezel**
I haven't done all the files, but a fair number of them. The only changes in this PR are:
* Replace `open scoped Classical` with `open scoped Classical in` (when needed for the statement) or `classical` in proofs.
* Some term mode proofs with `if` have been converted to tactic mode proofs with `by_cases`.
* Some adjacent `open ...` statements have been merged into a single `open ...`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -18,10 +18,7 @@ We also prove basic properties of these functions.
 
 noncomputable section
 
-open scoped Classical
-open Real NNReal ENNReal ComplexConjugate
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:22]: I suspect a lot of these are actually mistranslations of `open_locale`; but  I guess that ship has long since sailed, and replacing the `open`s with `open scoped` that corresponded to `open_locale` in Lean 3 is far too much work now.

File: Mathlib/Data/Real/Hyperreal.lean [hunk 2]
```diff
@@ -525,10 +525,11 @@ theorem not_infinite_mul {x y : ℝ*} (hx : ¬Infinite x) (hy : ¬Infinite y) :
 theorem st_add {x y : ℝ*} (hx : ¬Infinite x) (hy : ¬Infinite y) : st (x + y) = st x + st y :=
   (isSt_st' (not_infinite_add hx hy)).unique ((isSt_st' hx).add (isSt_st' hy))
 
-theorem st_neg (x : ℝ*) : st (-x) = -st x :=
-  if h : Infinite x then by
-    rw [h.st_eq, (infinite_neg.2 h).st_eq, neg_zero]
-  else (isSt_st' (not_infinite_neg h)).unique (isSt_st' h).neg
+theorem st_neg (x : ℝ*) : st (-x) = -st x := by
+  classical
+  by_cases h : Infinite x
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Hyperreal.lean:530]: Could you mention this `if` -> `by_cases` transformation in the description?

**Review by eric-wieser — APPROVED** [review]
Thanks, all 113 files look good!

**Comment by eric-wieser** [comment]
bors d+

Please update the PR description to mention the `by_cases` and the choice to merge adjacent `open`s that may once have been `open scoped`.
